US06063782
Methyl 1-(2-butenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate
The title compound (cis/trans=93/7) was prepared as a pale brown oil in 33.4% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 2-butenyl methanesulfonate (cis/trans=96/4).

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 2-butenyl methanesulfonate | CS(=O)(=O)OCC=CC | C5H10O3S
product | Methyl 1-(2-butenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(C=CC)N1C(=C(C(=C1C)C)C=O)C(=O)OC | C13H17NO3
